US04008322
s-triazolo[ 4,3-a]quinoxaline
One hundred ml. of triethylorthoformate was mixed with 8.98 g. of 2-hydrazinoquinoxaline. The mixture was stirred at reflux and cooled as in the example above, and 9 g. of crude product was collected. After recrystallization from ethanol, the product was identified as s-triazolo[ 4,3-a]quinoxaline, m.p. 238°-39° C. The final yield was 5 g.

reactant | triethylorthoformate | C(C)OC(OCC)OCC | C7H16O3
reactant | 2-hydrazinoquinoxaline | N(N)C1=NC2=CC=CC=C2N=C1 | C8H8N4
product | s-triazolo[ 4,3-a]quinoxaline | C1=NN=C2N1C1=CC=CC=C1N=C2 | C9H6N4
